US06380262B1
4,5-Dibenzylcyclopentenone Ether
Structures of 4-t-butylcyclopentenone ether, 5-t-butylcyclopentenone ether and 4,5-di-t-butylcyclopentenone ether were confirmed by NMR as described in Referential Example 1-(21). The results are shown below.

reactant | 4-t-butylcyclopentenone ether | C(C)(C)(C)C1C=CC(C1)=O.CCOCC
reactant | 5-t-butylcyclopentenone ether | C(C)(C)(C)C1CC=CC1=O.CCOCC
reactant | 4,5-di-t-butylcyclopentenone ether | C(C)(C)(C)C1C=CC(C1C(C)(C)C)=O.CCOCC
product | 4,5-Dibenzylcyclopentenone Ether | C(C1=CC=CC=C1)C1C=CC(C1CC1=CC=CC=C1)=O.CCOCC | InChI=1S/C19H18O.C4H10O/c20-19-12-11-17(13-15-7-3-1-4-8-15)18(19)14-16-9-5-2-6-10-16;1-3-5-4-2/h1-12,17-18H,13-14H2;3-4H2,1-2H3
